US05438135
A mixture of 0.5 g (4.7 mmols) of the diiminosuccinonitrile and 0.67 g (4.7 mmols) of 4-chloro-1,2-phenylenediamine was slowly added to 10 ml of trifluoroacetic acid at about 20° C. over a period of 30 minutes, and the resulting mixture was stirred at room temperature for 8 hours and then allowed to stand overnight. To the reaction mixture was added 50 ml of water, and the solid precipitated was filtered and sufficiently washed with water. The solid thus obtained was dried under reduced pressure, followed by a silica gel column chromatography (eluent: hexane/ethyl acetate (75/25)) and then recrystallization from chloroform/ethanol, wherein 0.6 g (59%) of 6-chloro-2,3-dicyanoquinoxaline was obtained as colorless crystals.

reactant | diiminosuccinonitrile | 4.7 mmols, 0.5 g | N=C(C(C#N)=N)C#N | C4H2N4
reactant | 4-chloro-1,2-phenylenediamine | 4.7 mmols, 0.67 g | ClC1=CC(=C(C=C1)N)N | C6H7ClN2
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | 50 ml | O | H2O
product | 6-chloro-2,3-dicyanoquinoxaline | 0.6 g, 59% | ClC=1C=C2N=C(C(=NC2=CC1)C#N)C#N | C10H3ClN4
